US04943662
(a) Preparation of 1,6-di-(tertiary-butylthio)-hexane
The addition of tertiary-butyl mercaptan to 1,5-hexadiene according to the reaction:

reactant | tertiary-butyl mercaptan | C(C)(C)(C)S | C4H10S
reactant | 1,5-hexadiene | C=CCCC=C | C6H10
product | 1,6-di-(tertiary-butylthio)-hexane | C(C)(C)(C)SCCCCCCSC(C)(C)C | C14H30S2
